US09403798B2
tert-Butyl 5,5-bis[(methoxymethoxy)methyl]-4-{[(trifluoromethyl)sulfonyl]oxy}-5,6-dihydropyridine-1(2H)-carboxylate
To a tetrahydrofuran solution (6.0 mL) of tert-butyl 3,3-bis[(methoxymethoxy)methyl]-4-oxopiperidine-1-carboxylate (233 mg, 0.671 mmol) synthesized in Reference Synthesis Example 356, sodium bis(trimethylsilyl)amide (1.0 M tetrahydrofuran solution) (740 μL, 0.740 mmol) was added at 0° C. and the resultant mixture was stirred for 5 minutes. Thereafter, 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonamide (287 mg, 0.804 mmol) was added to the mixture and the resultant mixture was stirred at room temperature for 1 day. After completion of the reaction, the reaction solution was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate=1/0→1/1) to obtain the title compound (211 mg, yield 66%).

reactant | tert-butyl 3,3-bis[(methoxymethoxy)methyl]-4-oxopiperidine-1-carboxylate | 0.671 mmol, 233 mg | COCOCC1(CN(CCC1=O)C(=O)OC(C)(C)C)COCOC | C16H29NO7
reactant | sodium bis(trimethylsilyl)amide | 0.740 mmol, 1.0 M, 740 μL | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 1,1,1-trifluoro-N-phenyl-N-[(trifluoromethyl)sulfonyl]methanesulfonamide | 0.804 mmol, 287 mg | FC(S(=O)(=O)N(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1)(F)F | C8H5F6NO4S2
solvent | tetrahydrofuran | 6.0 mL | O1CCCC1 | C4H8O
product | tert-Butyl 5,5-bis[(methoxymethoxy)methyl]-4-{[(trifluoromethyl)sulfonyl]oxy}-5,6-dihydropyridine-1(2H)-carboxylate | 211 mg, yield 66% | COCOCC1(C(=CCN(C1)C(=O)OC(C)(C)C)OS(=O)(=O)C(F)(F)F)COCOC | C17H28F3NO9S
